2173-12-23 08:03:00 Physician Resident Progress Note
Chief Complaint: SOB and fever
   24 Hour Events:
 BLOOD CULTURED - At [**2173-12-22**] 06:39 PM
 CALLED OUT
   -Got HD yesterday with 2.5 L off, post HD got lightheaded with
   resoution with 500cc bolus
   -Continued vanc qHD protocol
   -[**12-26**] BCx growing GPCs in pairs and clusters
   -called out to floor, awaiting bed
   Allergies:
   Dyazide (Oral) (Triamterene/Hydrochlorothiazid)
   Unknown;
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Nsaids
   Unknown;
   Inderal (Oral) (Propranolol Hcl)
   Unknown;
   Cefazolin
   laryngeal [**Last Name (un) 468**]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2173-12-23**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 75 (66 - 87) bpm
   BP: 138/43(67){94/35(53) - 160/54(76)} mmHg
   RR: 29 (15 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    922 mL
                                                                    150 mL
   PO:
                                                                    330 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    592 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                     24 mL
   Urine:
                                                                    435 mL
                                                                     24 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,013 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: 2L Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: MMM
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   radiates to axilla
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), extremities warm
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema b/l
   Musculoskeletal: Left arm AV graft, +bruit
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Oriented (to): place, person,
   Movement: Not assessed, Tone: Not assessed, wakes easily, answers
   questions appropriately, though sleepy
   Labs / Radiology
   254 K/uL
   11.6 g/dL
   173 mg/dL
   4.4 mg/dL
   28 mEq/L
   4.5 mEq/L
   23 mg/dL
   98 mEq/L
   137 mEq/L
   38.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2173-12-22**]  02:44 PM
                             [**2173-12-23**]  04:40 AM
   WBC
   8.2
   Hct
   38.2
   Plt
   254
   Cr
   6.2
   4.4
   TropT
   0.20
   0.18
   Glucose
   97
   173
   Other labs: CK / CKMB / Troponin-T:89/3/0.18, Ca++:9.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.9 mg/dL
   Imaging: CXR [**12-22**]:
   Moderate edema.
   Microbiology: Blood Cx [**12-22**]:  Gram pos cocci in pairs and clusters
   Assessment and Plan
   65yo woman with ESRD s/p renal transplant on HD, CAD, dCHF, DM 2, and
   HTN admitted with bacteremia and pulmonary edema.
 DYSPNEA (SHORTNESS OF BREATH):  [**12-25**] pulmonary edema, most likely
   caused by sepsis.  Mechanism could have been transient demand ischemia
   from sepsis and HTN creating stiff ventricle and fluid overload in her
   lungs.
   -          improved s/p HD [**12-22**]
   -          continue to wean oxygen
   -          CXR c/w pulmonary edema
   -          Treat bacteremia as below
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   -          improved s/p HD [**12-22**]
   -          continue metoprolol, ACE I
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   bacteremia with gram positive cocci
   -          continue vancomycin (day 1 = [**12-22**])
   -          would DC levofloxacin now that source identified
   -          f/u blood cultures
   -          MRSA precautions until bacteria cultured, resistance profile
   known
   -          Unknown source of infection; per renal recs, will check
   ultrasound of graft for evidence of infection
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): on HD MWF
   but makes some urine
   -          appreciate renal recs
   -          continue immunosuppression with prednisone and tacrolimus
   -          follow tacrolimus levels
   -          continue nephrocaps and bactrim PPx
 .H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   -          continue beta blocker and ACE I
 DIABETES MELLITUS (DM), TYPE II
   -          on NPH and SSI; diabetic diet
   -          will tighten SSI given hyperglycemia
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          small troponin leak resolving, most likely from demand while
   hypertensive
   -          continue ASA, beta blocker, ACE I
   ICU Care
   Nutrition:
   Comments: renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2173-12-22**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2173-12-23 11:33:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2173-12-22**] 06:39 PM
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Dyazide (Oral) (Triamterene/Hydrochlorothiazid)
   Unknown;
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Nsaids
   Unknown;
   Inderal (Oral) (Propranolol Hcl)
   Unknown;
   Cefazolin
   laryngeal [**Last Name (un) 468**]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Dyspnea
   Genitourinary: Dialysis
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-12-23**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.8
   HR: 68 (59 - 87) bpm
   BP: 101/41(56){94/35(53) - 160/54(76)} mmHg
   RR: 20 (15 - 44) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    922 mL
                                                                    380 mL
   PO:
                                                                    330 mL
                                                                    330 mL
   TF:
   IVF:
                                                                    592 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                     31 mL
   Urine:
                                                                    435 mL
                                                                     31 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,013 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x3, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   254 K/uL
   173 mg/dL
   4.4 mg/dL
   28 mEq/L
   4.5 mEq/L
   23 mg/dL
   98 mEq/L
   137 mEq/L
   38.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2173-12-22**]  02:44 PM
                             [**2173-12-23**]  04:40 AM
   WBC
   8.2
   Hct
   38.2
   Plt
   254
   Cr
   6.2
   4.4
   TropT
   0.20
   0.18
   Glucose
   97
   173
   Other labs: CK / CKMB / Troponin-T:89/3/0.18, Ca++:9.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) - GPC in
   blood. Not sure what the source would be in view of fistula. This could
   be MRSA but w/o access catheter this seems unusual. Waiting for ID -
   continuing levoflox and Vanco
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 .H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC - presumably cardiogenic
   pulmonary edema. Hard to understand how the bacteremia precipitated
   pulmonary edema but seems likely she had demand ischemia in setting of
   temp 103 - got ischemic and then had pulm edema - this fits with pos
   troponin
 DIABETES MELLITUS (DM), TYPE II - not yet controlled. Will increase
   SSI
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2173-12-22**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2173-12-24 07:34:00 Physician Resident Progress Note
Chief Complaint: fevers, dyspnea
   24 Hour Events:
 ULTRASOUND - At [**2173-12-23**] 02:17 PM
   US of L AV fistula
 CALLED OUT
   Blood cultures growing Staph aureus, awaiting sensitivities
   Ultrasound of AV graft done--patent, no evidence of infection
   Stopped her levofloxacin
   Awaiting her TTE
   Called out, still awaiting bed
   Could not get AM labs b/c tough stick; defer for hemodialysis
   Apneas noted on telemetry overnight
   Allergies:
   Dyazide (Oral) (Triamterene/Hydrochlorothiazid)
   Unknown;
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Nsaids
   Unknown;
   Inderal (Oral) (Propranolol Hcl)
   Unknown;
   Cefazolin
   laryngeal [**Last Name (un) 468**]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, no longer feels chilled
   Ear, Nose, Throat: denies congestion, sore throat
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Diarrhea,  +Constipation
   Musculoskeletal: No(t) Joint pain
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2173-12-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 59 (57 - 80) bpm
   BP: 145/90(95){101/37(56) - 165/90(101)} mmHg
   RR: 21 (8 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
                  Total In:
                                                                    650 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                     58 mL
                                                                      0 mL
   Urine:
                                                                     58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: MMM, OP clear
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema b/l; left arm AV graft with palpable thrill
   Skin:  Not assessed, Rash: darkened skin on face, cheeks
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): place,
   person, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology    ***PLEASE NOTE LABS FROM [**12-23**] AS NOT YET DRAWN
   [**12-24**]***
   254 K/uL
   11.6 g/dL
   173 mg/dL
   4.4 mg/dL
   28 mEq/L
   4.5 mEq/L
   23 mg/dL
   98 mEq/L
   137 mEq/L
   38.2 %
   8.2 K/uL
        [image002.jpg]
   FK 1.7 (low)
                             [**2173-12-22**]  02:44 PM
                             [**2173-12-23**]  04:40 AM
   WBC
   8.2
   Hct
   38.2
   Plt
   254
   Cr
   6.2
   4.4
   TropT
   0.20
   0.18
   Glucose
   97
   173
   Other labs: CK / CKMB / Troponin-T:89/3/0.18, Ca++:9.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.9 mg/dL
   Imaging: US L AV graft [**12-23**]:
   Son[**Name (NI) **] evaluation of the patient's AV graft in the left forearm
   demonstrates some wall-to-wall flow, with no evidence of thrombosis.
   There is no edema of the surrounding tissues and no fluid collection
   identified.
   Microbiology: BCx [**12-22**]: Blood Culture, Routine (Preliminary):
         STAPH AUREUS COAG +.    PRELIMINARY SENSITIVITY.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   ERYTHROMYCIN----------       R
   GENTAMICIN------------       S
   RIFAMPIN--------------       S
   TETRACYCLINE----------       S
   VANCOMYCIN------------       S
   BCx [**12-22**] and [**12-23**] pending
   Assessment and Plan
   65yo woman with ESRD s/p renal transplant on HD admitted with staph
   aureus bacteremia and dyspnea.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -          Blood Cx growing staph aureus, sensitivities pending; no
   source identified
   -          On vancomycin day 3 (day 1 = [**12-22**]); check trough prior to
   dialysis
   -          Ultrasound of AV graft without evidence of infection or clot
   -          UA negative
   -          ROS negative
   -          AP CXR negative for consolidation
   -          f/u blood cultures until negative and check TTE for
   vegetations; if negative, would pursue TEE
   -          MRSA precautions pending sensitivities
 DYSPNEA (SHORTNESS OF BREATH)
   -          in the setting of pulmonary edema, most likely due to acute
   sepsis with transient demand ischemia causing a stiff ventricle
   -          resolved with treatment of infection and dialysis; at
   baseline on RA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE
   EMERGENCY):  resolved
   -          continue metoprolol, ACE I
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   -          appreciate renal recs
   -          hemodialysis MWF
   -          immunosuppression with tacrolimus and prednisone; question
   whether dose of tacrolimus should be adjusted for low level
   -          nephrocaps; bactrim PPx
 .H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   -          on beta blocker and ACE I
 DIABETES MELLITUS (DM), TYPE II
   -          increased SSI yesterday
   -          on NPH, SSI, diabetic diet
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          ASA, beta blocker, ACE I
   # Apneas:
   -          frequent apneas noted on telemetry; would pursue OSA work-up
   as outpatient
   ICU Care
   Nutrition:
   Comments: Renal, cardiac diet
   Glycemic Control:  Humalog insulin sliding scale
   Lines:
   20 Gauge - [**2173-12-22**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  not on vent
   Comments: bowel regimen for constipation
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2173-12-24 10:32:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2173-12-23**] 02:17 PM
   US of L AV fistula
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Dyazide (Oral) (Triamterene/Hydrochlorothiazid)
   Unknown;
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Nsaids
   Unknown;
   Inderal (Oral) (Propranolol Hcl)
   Unknown;
   Cefazolin
   laryngeal [**Last Name (un) 468**]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: snoring, witnessed apneas
   Genitourinary: Dialysis, today
   Flowsheet Data as of  [**2173-12-24**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 61 (55 - 80) bpm
   BP: 124/50(69){101/37(56) - 165/90(101)} mmHg
   RR: 16 (8 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    650 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                     58 mL
                                                                     70 mL
   Urine:
                                                                     58 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Loud), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), Fistula L
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, Somnolent
   Labs / Radiology
   10.8 g/dL
   291 K/uL
   185 mg/dL
   6.4 mg/dL
   27 mEq/L
   4.1 mEq/L
   41 mg/dL
   95 mEq/L
   136 mEq/L
   34.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2173-12-22**]  02:44 PM
                             [**2173-12-23**]  04:40 AM
                             [**2173-12-24**]  08:23 AM
   WBC
   8.2
   7.6
   Hct
   38.2
   34.4
   Plt
   254
   291
   Cr
   6.2
   4.4
   6.4
   TropT
   0.20
   0.18
   Glucose
   97
   173
   185
   Other labs: CK / CKMB / Troponin-T:89/3/0.18, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   - apparently an episode of Pulmonary edema responsible for HTN on adm
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) - awaiting
   sensitivities of Staph. Remains on Vanco for now - dosing per levels.
   TTE today but likely will need TEE.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD) - dialysis
   today
 .H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 presumably
   demand ischemia on adm
 no further episodes of CP
   OBSTRUCTIVE SLEEP APNEA - for outpatient w/u
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2173-12-22**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:  35